US05189036
1-[4-(1H-Imidazol-1-yl)benzoyl]piperazine
1-[4-(1H-Imidazol-1-yl)benzoyl]-4-(phenylmethyl)piperazine (26.65 g, 76.9 mmol) is dissolved in ethanol (500 mL) and 10% palladium on carbon (2.00 g) as a slurry in water (10 mL) is added to the solution. The mixture is shaken under an atmosphere of hydrogen on a Parr apparatus at 50 psi and 50° C. for 30 hr. The mixture is filtered through Celite, the solvent is evaporated, and the residue is triturated with ether and crystallized from ethyl acetate-hexane to afford the title compound.

reactant | 1-[4-(1H-Imidazol-1-yl)benzoyl]-4-(phenylmethyl)piperazine | 76.9 mmol, 26.65 g | N1(C=NC=C1)C1=CC=C(C(=O)N2CCN(CC2)CC2=CC=CC=C2)C=C1 | C21H22N4O
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.00 g | [Pd] | Pd
solvent | water | 10 mL | O | H2O
product | 1-[4-(1H-Imidazol-1-yl)benzoyl]piperazine | N1(C=NC=C1)C1=CC=C(C(=O)N2CCNCC2)C=C1 | C14H16N4O
